US07365088B2
(i) 1-(4-Amino-phenyl)-pyrrolidin-2-one
800 mg Benzene-1,4-diamine and 600 μl Dihydro-furan-2-one were heated for 1 h to 200° C. under microwave irradiation (200 W, CEM Discover™ apparatus). Finally, 10 mL saturated NaHCO3 solution were added and the mixture was directly purified by chromatography on silica gel eluting with a gradient of DCM/MeOH 100%->50%. The fractions containing the product were combined and the solvent evaporated under reduced pressure. Yield: 860 mg.

reactant | Benzene-1,4-diamine | 800 mg | C1(=CC=C(C=C1)N)N | C6H8N2
reactant | Dihydro-furan-2-one | 600 μl | O1C(CCC1)=O | C4H6O2
solvent | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
product | 1-(4-Amino-phenyl)-pyrrolidin-2-one | NC1=CC=C(C=C1)N1C(CCC1)=O | C10H12N2O
